US05965741
A solution of methyl 2-hydroxy-3-phenylbenzoate (9.5 g, 41.7 mmol) in DMF (80 ml) was treated with K2CO3 (8.6 g, 62.5 mmole) and benzyl bromide (10.6 g 62.2 mmol). The reaction was stirred at ambient temperature overnight, then partitioned between ethyl acetate/and water. The organic phase was washed well with water, dried (MgSO4) and evaporated. The residue was purified by chromatography (eluant: ethyl acetate/hexane) to give methyl 2-benzyloxy-3-phenylbenzoate (11.23 g, 8.5%).

reactant | methyl 2-hydroxy-3-phenylbenzoate | 41.7 mmol, 9.5 g | OC1=C(C(=O)OC)C=CC=C1C1=CC=CC=C1 | C14H12O3
reactant | K2CO3 | 62.5 mmole, 8.6 g | C(=O)([O-])[O-].[K+].[K+]
reactant | benzyl bromide | 62.2 mmol, 10.6 g | C(C1=CC=CC=C1)Br | C7H7Br
solvent | DMF | 80 ml | CN(C)C=O | C3H7NO
product | methyl 2-benzyloxy-3-phenylbenzoate | 11.23 g, 8.5% | C(C1=CC=CC=C1)OC1=C(C(=O)OC)C=CC=C1C1=CC=CC=C1 | C21H18O3
